US09126969B2
758 mg of 4-fluoro-2-nitro-5-(4-piperidin-1-ylbutoxy)-phenylamine in solution in 40 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 75 mg of palladium-on-charcoal at 25° C. for 16 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 670 mg of 4-fluoro-5-(4-piperidin-1-ylbutoxy)benzene-1,2-diamine are isolated in the form of a black oil. 1H NMR (300 MHz, DMSO-d6, δ in ppm): from 1.29 to 1.56 (m, 8H); 1.62 (m, 2H); from 2.20 to 2.32 (m, 6H); 3.82 (t, J=6.5 Hz, 2H); 4.27 (broad m, 4H); 6.32 (d, J=9.0 Hz, 1H); 6.34 (d, J=13.0 Hz, 1H).

reactant | 4-fluoro-2-nitro-5-(4-piperidin-1-ylbutoxy)-phenylamine | 758 mg | FC1=CC(=C(C=C1OCCCCN1CCCCC1)N)[N+](=O)[O-] | C15H22FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium-on-charcoal | 75 mg | [Pd] | Pd
product | 4-fluoro-5-(4-piperidin-1-ylbutoxy)benzene-1,2-diamine | 670 mg | FC=1C=C(C(=CC1OCCCCN1CCCCC1)N)N | C15H24FN3O
